US09315438B2
(2) Preparation of (2-chloro-5-iodophenyl)(4-methoxyphenyl)methanone
2-chloro-5-iodobenzoyl chloride (10.7 g, 35.5 mmol) was dissolved in methylene chloride (200 mL). The resulting mixture was cooled in an ice-water bath. To the mixture was added aluminum trichloride (10.4 g, 78.2 mmol), and then added dropwise a solution of anisole (4.2 g, 38.9 mmol) in methylene chloride (50 mL). After the completion of dropwise addition, the resulting mixture was warmed up to room temperature and stirred for 3 hr. The reaction mixture was poured into ice-water and quenched. To the reaction mixture was added 3 mol/L hydrochloric acid. The resulting mixture was separated into an aqueous phase and an organic phase. The aqueous phase was extracted with methylene chloride (150 mL×2). The organic phases were combined, washed with a saturated sodium chloride solution, dried over anhydrous sodium sulphate, and concentrated under a reduced pressure. The resulting crude product was purified with a silica-gel column chromatography (ethyl acetate:petroleum ether=0-1:100) to produce 12.0 g of a product in a yield of 91%.

reactant | 2-chloro-5-iodobenzoyl chloride | 35.5 mmol, 10.7 g | ClC1=C(C(=O)Cl)C=C(C=C1)I | C7H3Cl2IO
reactant | aluminum trichloride | 78.2 mmol, 10.4 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | anisole | 38.9 mmol, 4.2 g | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | (2-chloro-5-iodophenyl)(4-methoxyphenyl)methanone | 12.0 g, yield of 91% | ClC1=C(C=C(C=C1)I)C(=O)C1=CC=C(C=C1)OC | C14H10ClIO2
